US08648087B2
Step F: Preparation of 2-methyl-5-(2-methyl-4-nitrophenoxy)benzo[d]oxazole:
2-Methylbenzo[d]oxazol-5-ol (0.86 g, 5.77 mmol), 1-fluoro-2-methyl-4-nitrobenzene (0.98 g, 6.34 mmol) and K2CO3 (1.59 g, 11.53 mmol) were combined in DMF and heated to 50° C. for 16 hours. The reaction mixture was cooled to room temperature and poured into ice water. The mixture was extracted with ethyl acetate (3×). The combined organics were washed with brine, dried, and concentrated under reduced pressure. The residue was chromatographed (20% to 40% ethyl acetate in hexanes) to provide the product (0.671 g, 41%) as yellow solid.

reactant | 2-Methylbenzo[d]oxazol-5-ol | 5.77 mmol, 0.86 g | CC=1OC2=C(N1)C=C(C=C2)O | C8H7NO2
reactant | 1-fluoro-2-methyl-4-nitrobenzene | 6.34 mmol, 0.98 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | K2CO3 | 11.53 mmol, 1.59 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-methyl-5-(2-methyl-4-nitrophenoxy)benzo[d]oxazole | 0.671 g, 41% | CC=1OC2=C(N1)C=C(C=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])C | C15H12N2O4
